US06331408B1
Step (42-a) 3-Phenoxybenzyl iodide:
To a solution of 3-phenoxybenzyl chloride (10.0 g, 45.7 mmol) in 200 ml acetone was added sodium iodide (7.6 g, 507 mmol). The mixture was stirred at temperature overnight. The mixture was diluted with 300 ml hexane and the organic layer was washed twice with 5% sodium bicarbonate, once with brine and then dried over MgSO4. Evaporation of the filtrate gave a light yellow oil. The product was used in next step without purification. 1H NMR (CDCl3) 4.4 (s,2H), 6.8-7.4 (m, 9H).

reactant | 3-phenoxybenzyl chloride | 45.7 mmol, 10.0 g | O(C1=CC=CC=C1)C=1C=C(CCl)C=CC1 | C13H11ClO
reactant | sodium iodide | 507 mmol, 7.6 g | [I-].[Na+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | hexane | 300 ml | CCCCCC | C6H14
product | 3-Phenoxybenzyl iodide | O(C1=CC=CC=C1)C=1C=C(CI)C=CC1 | C13H11IO
